US04743685
(D) 1,4-Dihydro-5-hydroxy-4-oxo-2-pyridinecarboxaldehyde
To a solution of 4,5-bis(phenylmethoxy)-2-pyridinecarboxaldehyde (1.9 g, 6.0 mmol) in 25 ml of dry dimethylformamide was added 0.2 g of palladium on charcoal catalyst and hydrogen was bubbled through the mixture for three hours. The catalyst was removed by filtration, the solvent distilled off in vacuo and the residue triturated with ether to give 0.64 g of the title compound, melting point 174°-177° C., dec.

reactant | 4,5-bis(phenylmethoxy)-2-pyridinecarboxaldehyde | 6.0 mmol, 1.9 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C=O | C20H17NO3
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
product | 1,4-Dihydro-5-hydroxy-4-oxo-2-pyridinecarboxaldehyde | 0.64 g | OC=1C(C=C(NC1)C=O)=O | C6H5NO3
